### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Matching): Add matching free graphs

### PR DESCRIPTION
**Pull request by pimotte**
Add supporting lemmas for graphs free of matchings in preperation for Tuttes theorem

---

- [x] depends on: #14721

[Open in Gitpod](https://gitpod.io/from-referrer/)

Corresponding [zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Tutte's.20theorem)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 1]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
 
 end Finite
 end ConnectedComponent
+
+/--
+  A graph is matching free if it has no perfect matching. It does not make much sense to
+  consider a graph being free of just matchtings, because any non-trivial graph has those.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:232]:
```suggestion
  consider a graph being free of just matchings, because any non-trivial graph has those.
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 2]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+-/
+def IsMatchingFree (G : SimpleGraph V) := ∀ (M : Subgraph G), ¬Subgraph.IsPerfectMatching M
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:234]:
```suggestion
def IsMatchingFree (G : SimpleGraph V) := ∀ M : Subgraph G, ¬ M.IsPerfectMatching
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 3]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+    G.IsMatchingFree := by
+  intro x
+  by_contra! hc
+  apply hmf (x.map (SimpleGraph.Hom.ofLE h))
+  refine ⟨hc.1.map_ofLE h, ?_⟩
+  intro v
+  simp only [Subgraph.map_verts, Hom.coe_ofLE, id_eq, Set.image_id']
+  exact hc.2 v
+
+lemma exists_maximal_IsMatchingFree [Fintype V] [DecidableEq V]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:246]:
```suggestion
lemma exists_maximal_isMatchingFree [Fintype V] [DecidableEq V]
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 4]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+    (h : G.IsMatchingFree) : ∃ Gmax : SimpleGraph V,
+    G ≤ Gmax ∧ Gmax.IsMatchingFree ∧ ∀ G', G' > Gmax → ¬ G'.IsMatchingFree := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:248]: This is a general property of monotone predicates. Maybe Peter's #14721 will help here?

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 5]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
 end Finite
 end ConnectedComponent
+
+/--
+  A graph is matching free if it has no perfect matching. It does not make much sense to
+  consider a graph being free of just matchtings, because any non-trivial graph has those.
+-/
+def IsMatchingFree (G : SimpleGraph V) := ∀ (M : Subgraph G), ¬Subgraph.IsPerfectMatching M
+
+lemma IsMatchingFree_mono {G G' : SimpleGraph V} (h : G ≤ G') (hmf : G'.IsMatchingFree) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:236]:
```suggestion
lemma IsMatchingFree.mono {G G' : SimpleGraph V} (h : G ≤ G') (hmf : G'.IsMatchingFree) :
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 6]
```diff
@@ -226,4 +226,35 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
 
 end Finite
 end ConnectedComponent
+
+/--
+  A graph is matching free if it has no perfect matching. It does not make much sense to
+  consider a graph being free of just matchtings, because any non-trivial graph has those.
+-/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:233]: Indentation is wrong here

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 4 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: I don't think it even needs monotinicity. It's more a specialization of generic facts to a Fintype. I'm not quite sure if that's an idiomatic statement. I was looking at Data.Fintype.Order for a landing place, but I see recently stuff in the Fintype namespace has been deprecated. Any thoughts on where this should go? 

As far as I understand Peter's work I don't think it's overlapping.

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 6 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: Fixed

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 7]
```diff
@@ -226,4 +226,37 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+lemma Fintype.exists_maximal {α} [Fintype α] [PartialOrder α] {a : α} {p : α → Prop}
+    (h : p a) : ∃ b : α, a ≤ b ∧ p b ∧ ∀ c, c > b → ¬ p c := by
+  have hfinite : {b : α | a ≤ b ∧ p b}.Finite := by
+    rw [@Set.setOf_and]
+    apply Finite.Set.finite_inter_of_left
+  obtain ⟨b, hb⟩ := hfinite.exists_maximal_wrt id _ ⟨a, Set.mem_setOf.mpr ⟨by rfl, h⟩⟩
+  use b
+  simp only [Set.mem_setOf_eq, id_eq, and_imp] at hb
+  exact ⟨hb.1.1, hb.1.2, fun c hc hc' ↦
+    (ne_of_lt hc) <| hb.2 _ (le_trans hb.1.1 (le_of_lt hc)) hc' (le_of_lt hc)⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:255]:
```suggestion
    hc.ne <| hb.2 _ (le_trans hb.1.1 (le_of_lt hc)) hc' (le_of_lt hc)⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 8]
```diff
@@ -226,4 +226,37 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+
+lemma exists_maximal_isMatchingFree [Fintype V] [DecidableEq V]
+    (h : G.IsMatchingFree) : ∃ Gmax : SimpleGraph V,
+    G ≤ Gmax ∧ Gmax.IsMatchingFree ∧ ∀ G', G' > Gmax → ∃ M : Subgraph G', M.IsPerfectMatching := by
+  simp_rw [← @not_forall_not _ Subgraph.IsPerfectMatching]
+  exact Fintype.exists_maximal h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:261]:
```suggestion
  exact Fintype.exists_maximal h
  
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 9]
```diff
@@ -226,4 +226,37 @@ lemma odd_matches_node_outside {u : Set V} {c : ConnectedComponent (Subgraph.del
...
+  intro x
+  by_contra! hc
+  apply hmf (x.map (SimpleGraph.Hom.ofLE h))
+  refine ⟨hc.1.map_ofLE h, ?_⟩
+  intro v
+  simp only [Subgraph.map_verts, Hom.coe_ofLE, id_eq, Set.image_id']
+  exact hc.2 v
+
+lemma Fintype.exists_maximal {α} [Fintype α] [PartialOrder α] {a : α} {p : α → Prop}
+    (h : p a) : ∃ b : α, a ≤ b ∧ p b ∧ ∀ c, c > b → ¬ p c := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:247]: @apnelson1, thoughts?

Comment (apnelson1) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean:247]: This should probably be phrased with `Maximal p b` (from #14721) as the conclusion. The particular gt -> not version in the statement above is `Maximal.not_prop_of_lt`.

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: > I was looking at Data.Fintype.Order for a landing place, but I see recently stuff in the Fintype namespace has been deprecated

Uh, what things were deprecated?

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: [This stuff](https://github.com/leanprover-community/mathlib4/blob/604cb3610ee4c147dd3ef1966d0505c57cabbf0c/Mathlib/Data/Fintype/Order.lean#L215) (So mostly my question is, should this be here, and if yes should it be in the Finite or Fintype namespace?

(Currently working on following up on the comments below:))

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: I commited something that I think makes some sense, but I'm very open to a better spot to put it.

File: Mathlib/Data/Fintype/Order.lean [hunk 10]
```diff
@@ -152,6 +152,16 @@ noncomputable abbrev toCompleteLinearOrderOfNonempty [LinearOrder α] : Complete
 
 end Nonempty
 
+lemma exists_le_maximal {α} [Fintype α] [PartialOrder α] {a : α} {p : α → Prop}
```
Comment (apnelson1) [inline Mathlib/Data/Fintype/Order.lean:155]:
```
lemma Finite.exists_ge_minimal {α} [Finite α] [PartialOrder α] {a : α} {p : α → Prop} (h : p a) :
    ∃ b, b ≤ a ∧ Minimal p b := by
  obtain ⟨b, ⟨hba, hb⟩, hbmin⟩ :=
    Set.Finite.exists_minimal_wrt id {x | x ≤ a ∧ p x} (Set.toFinite _) ⟨a, rfl.le, h⟩
  exact ⟨b, hba, hb, fun x hx hxb ↦ (hbmin x ⟨hxb.trans hba, hx⟩ hxb).le⟩

lemma Finite.exists_le_maximal {α} [Finite α] [PartialOrder α] {a : α} {p : α → Prop} (h : p a) :
    ∃ b, a ≤ b ∧ Maximal p b :=
  Finite.exists_ge_minimal (α := αᵒᵈ) h 
```

Comment (apnelson1) [reply Mathlib/Data/Fintype/Order.lean:155]: I think that `Finite` makes more sense here than `Fintype`. See [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Fintype/Lattice.html#Finite.exists_max), for instance.

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: Oh, that's simply because some lemmas don't need constructive finiteness to be stated, so they shouldn't use constructive finiteness to be stated. Put yours in the namespace`Fintype` or `Finite` depending on whether they assume `Fintype` or `Finite`

File: Mathlib/Data/Fintype/Order.lean (hunk 10 above)
Comment (pimotte) [reply Mathlib/Data/Fintype/Order.lean]: Fixed:)

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by semorrison** [comment]
@YaelDillies, there are still open conversations above. Have they been dealt with? (Probably best to try to get things marked as resolved before `maintainer-merge`.)

**Comment by YaelDillies** [comment]
Sorry, it's incredibly painful to scroll through the comments on a PR from the mobile app. And indeed all the comments were resolved (I think it's a reasonable assumption that all the comments I've made have been addressed when I maintainer merge a PR, else I would have complained).

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
